US05292720
To prepare the 1-isopropyl-2,3,3,5-tetramethylindane, the procedures of Traas et al., U.S. Pat. No. 4,352,748 are substantially followed. Specifically, methallyl chloride (24 g) is added to a mixture of toluene (92 g) and concentrated sulfuric acid (49 g), while maintaining the temperature at about 40° C. The reaction mixture is stirred for half an hour, after which time the layers are separated. The organic layer is washed neutral with soda solution, dried on magnesium sulfate and evaporated. The residue is distilled under diminished pressure to obtain 2-methyl-2 (para-tolyl)propyl chloride. A mixture of 2 methyl-2-(para-tolyl)propyl chloride (18 g) and tert-amyl chloride (10 g) is added to aluminum chloride (10 g) dissolved in nitromethane (50 ml), at a temperature of between about 5° C. and 10 ° C. The reaction mixture is allowed to warm to room temperature, with stirring, over a period of about one hour. The reaction mixture is then poured over ice, and extracted three times with ether. The solution in ether is washed to neutrality, dried on magnesium sulfate and evaporated. The residue is distilled under diminished pressure to yield 1-isopropyl-2,3,3,5-tetramethylindane.

reactant | 1-isopropyl-2,3,3,5-tetramethylindane | C(C)(C)C1C(C(C2=CC(=CC=C12)C)(C)C)C | C16H24
reactant | methallyl chloride | 24 g | C(C(C)=C)Cl | C4H7Cl
reactant | sulfuric acid | 49 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 92 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2 (para-tolyl)propyl chloride | CC(CCl)(C)C1=CC=C(C=C1)C | C11H15Cl
